Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Flagyl / Lisinopril
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is a pleasant ___ female with history of 
valve repair on Coumadin, diverticulitis complicated by 
perforation and managed conservatively, who now presents with 
abdominal pain. The patient states her pain started about ___ 
days ago and has been ongoing. At times it improved but it 
worsened today. She also endorses low-grade temperatures today 
around 99.3 which is ultimately the reason that she came to the 
ED. She endorses nausea but denies vomiting, diarrhea, blood in 
her stool or additional complaints at this time.

In the ED, initial vitals were: 99.3 73 132/104 18 100%.  Labs 
were notable for creatinine of 1.3, WBC 12.2, INR 2.8. UA was 
negative.  CT abd showed diverticulitis and colitis without 
extraluminal air or drainable fluid collection as well as mildly 
dilated loop of small bowl in L mid abdomen.  Pt was given 
morphine, Zofran, IVF, unasyn and transferred to the floor for 
further management given "age" and concern for development of 
volume overload.

On the floor, She has no new complaints.  Abd pain is ongoing 
and mild.

Review of systems:
(+) Per HPI
(-) Denies chills, night sweats, recent weight loss or gain. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies vomiting, diarrhea, 
constipation.   No recent change in bowel or bladder habits. No 
dysuria. Denies arthralgias or myalgias. 10 pt ros otherwise 
negative.

 
Past Medical History:
-hemorrhoids
-GERD
-diverticulitis
-afib on Coumadin
-sarcoidosis not on medications
-h bylori
-DJD
-mitral valve repair 
-heart failure
-scheduled for valve replacement (tricuspid and mitral)
-L knee replacement

 
Social History:
___
Family History:
(per chart, confirmed with pt):
Positive for heart disease, father had a colonic fistula. Father 
with lung ca.  Mother with sarcoid, scleroderma.
 
Physical Exam:
ADMISSION EXAM:
Vitals: 98.4 123/61 74 16 96% RA
Constitutional: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, ___ holosystolic 
murmur heard at the apex, rubs, gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi
GI: Soft, mild TTP in lower quadrants, non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, no CCE, varicose veins present 
bilaterally
Neuro: aaox3 CNII-XII and strength grossly intact 
Skin: no rashes or lesions

DISCHARGE EXAM:
VS: 98.1 ___ 18 99 RA 
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: non-focal.  
PSYCH: Appropriate and calm. 
 
Pertinent Results:
ADMISSION LABS:
___ 10:52PM URINE  HOURS-RANDOM
___ 10:52PM URINE  HOURS-RANDOM
___ 10:52PM URINE  UHOLD-HOLD
___ 10:52PM URINE  GR HOLD-HOLD
___ 10:52PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:52PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:09PM   LACTATE-1.6
___ 08:00PM   GLUCOSE-110* UREA N-39* CREAT-1.3* SODIUM-144 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-31 ANION GAP-16
___ 08:00PM   estGFR-Using this
___ 08:00PM   ALT(SGPT)-12 AST(SGOT)-23 ALK PHOS-60 TOT 
BILI-0.7
___ 08:00PM   LIPASE-25
___ 08:00PM   ALBUMIN-4.3 CALCIUM-9.1 PHOSPHATE-3.2 
MAGNESIUM-2.2
___ 08:00PM   WBC-12.2* RBC-4.08 HGB-12.4 HCT-36.5 MCV-90 
MCH-30.4 MCHC-34.0 RDW-13.2 RDWSD-44.0
___ 08:00PM   NEUTS-84.0* LYMPHS-7.1* MONOS-6.8 EOS-1.2 
BASOS-0.4 IM ___ AbsNeut-10.23* AbsLymp-0.86* AbsMono-0.83* 
AbsEos-0.14 AbsBaso-0.05
___ 08:00PM   PLT COUNT-153
___ 08:00PM   ___ PTT-38.3* ___

MICRO: blood cxs pending

STUDIES:
CT A/P:
1.  Acute sigmoid diverticulitis and/oe colitis without definite 
extraluminal air or drainable fluid collection. 
  
2.  Mildly dilated loop of small bowel in the left mid abdomen 
is likely due to focal ileus from adjacent inflammation. 
  
DISCHARGE LABS:
___ 08:17AM BLOOD WBC-8.0 RBC-4.01 Hgb-11.8 Hct-36.4 MCV-91 
MCH-29.4 MCHC-32.4 RDW-13.1 RDWSD-43.6 Plt ___
___ 08:17AM BLOOD Glucose-136* UreaN-31* Creat-1.3* Na-141 
K-4.3 Cl-99 HCO3-32 AnGap-14
___ 08:17AM BLOOD Calcium-9.5 Phos-3.4 Mg-2.___ year old female with  mitral and tricuspid valve disease, 
atrial fibrillation, diverticulitis, presents with abdominal 
pain, found to have recurrent diverticulitis.

# Diverticulitis/leukocytosis: clinically stable with only mild 
pain on abdominal exam after admission.  Patient tolerated a 
full diet within 24 hours of admission.  She was initially given 
IV antibiotics, then promptly switched to PO 
amoxicillin/clavulanate for a planned 10 day course.  She will 
follow up with her PCP following discharge.

# Acute kidney injury: mild, likely due to poor PO intake in 
setting of ongoing torsemide use, or possibly related to 
contrast administration.  Creatinine was 1.3 on discharge, from 
baseline 1.1, with plan to recheck creatinine on ___, the day 
after discharge, via her PCP.  Torsemide was  held for now, 
until her creatinine begins coming down, and her PCP instructs 
her to restart.

# Atrial fibrillation: INR was initially stable, then increased 
to 3.2 while on antibiotics, upon which warfarin was held.  On 
discharge, INR was 2.9, and patient was instructed to take 2 mg 
on ___, get her INR rechecked on ___ via her PCP, and then 
likely resume her normal dosing.

# Mitral/tricuspid valvular disease with HF:  Patient without 
evidence of heart failure currently.  Torsemide was held on 
discharge related to acute kidney injury.

# GERD: continued home omeprazole

# Sarcoidosis: only uses inhalers occasionally, will hold for 
now
given

TRANSITION OF CARE
------------------
# Follow-up: Creatinine was 1.3 on discharge, from baseline 1.1, 
with plan to recheck creatinine on ___, the day after 
discharge, via her PCP.  Torsemide was  held for now, until her 
creatinine begins coming down, and her PCP instructs her to 
restart.  She will follow up with her PCP, scheduled for ___.

# CODE: full
# CONTACT: ___ ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Torsemide 40 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
4. Calcium Carbonate 600 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Omeprazole 40 mg PO DAILY 
8. vitamin E 400 unit oral DAILY 
9. Warfarin 3 mg PO 2X/WEEK (MO,FR) 
10. Warfarin 4 mg PO 5X/WEEK (___) 
11. Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob 
12. Docusate Sodium 100 mg PO BID 
13. Amoxicillin ___ mg PO Q8H 

 
Discharge Medications:
1. Calcium Carbonate 600 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 1 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO BID 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. Vitamin D 1000 UNIT PO DAILY 
8. vitamin E 400 unit oral DAILY 
9. Warfarin 3 mg PO 2X/WEEK (MO,FR) 
10. Warfarin 4 mg PO 5X/WEEK (___) 
11. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*14 Tablet Refills:*0
12. Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob 
13. Amoxicillin ___ mg PO Q8H (will not take for dental 
procedures while on Augmentin)
14. Outpatient Lab Work
Please have INR and creatinine checked on ___ at ___'s office

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulitis
Acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent stay at 
___.  You came for further evaluation of abdominal pain, and 
were found to have diverticulitis.  You felt better soon after 
admission and with antibiotics.  You are now being discharged 
home.

Your kidney function was worsened while here, which may have 
been due to IV contrast that you received.  Please get your 
kidney function and INR rechecked tomorrow at your PCP's office.

Your INR was 2.9 today, and previously was 3.2.  You should take 
2 mg of warfarin today (half of a 4 mg pill), and then resume 
your normal schedule starting tomorrow, unless your INR is 
unexpectedly high when you get it checked tomorrow.

You should also not start taking your torsemide again until your 
primary care doctor advises you this is OK, after your kidney 
function is rechecked.

Please continue to take all medications as prescribed and follow 
up with the appointments listed below.
 
Followup Instructions:
___